US09376454B2
Carbon disulfide (1.36 mL, 22.6 mmol) was added to a solution of methyl 3-amino-4-(aminomethyl)benzoate (2.0 g, 11.3 mmol) in pyridine (10 mL) and the resultant reaction mixture was stirred at 60° C. overnight. After cooling, water was added to the reaction mixture. The solid formed was filtrated to afford methyl 2-thioxo-1,2,3,4-tetrahydroquinazoline-7-carboxylate (2.2 g) which was carried to the next step without further purification.

reactant | Carbon disulfide | 22.6 mmol, 1.36 mL | C(=S)=S | CS2
reactant | methyl 3-amino-4-(aminomethyl)benzoate | 11.3 mmol, 2.0 g | NC=1C=C(C(=O)OC)C=CC1CN | C9H12N2O2
reactant | water | O | H2O
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | methyl 2-thioxo-1,2,3,4-tetrahydroquinazoline-7-carboxylate | 2.2 g | S=C1NC2=CC(=CC=C2CN1)C(=O)OC | C10H10N2O2S
